US04229343
602 Parts of 2-chloro-5-chlorosulfonylbenzoic acid are added to a solution of 830 parts of 2,4-dichloroaniline in 600 parts of toluene at 60° and the mixture is stirred for 6 hours at the same temperature. Insoluble material is then dissolved in dilute sodium hydroxide solution, the aqueous layer is separated off and acidified with dilute hydrochloric acid and the product is filtered off and washed with water. After redissolving in sodium hydroxide solution, reprecipitation with hydrochloric acid and drying, 592 parts of 2-chloro-5-[2,4-dichlorophenyl-sulfamoyl]-benzoic acid are obtained as a colorless powder of melting point 174° C.

reactant | 2-chloro-5-chlorosulfonylbenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)Cl | C7H4Cl2O4S
reactant | 2,4-dichloroaniline | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-chloro-5-[2,4-dichlorophenyl-sulfamoyl]-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(NC1=C(C=C(C=C1)Cl)Cl)(=O)=O | C13H8Cl3NO4S
